US04046753
1-(o-Tolyl)-3-Thiosemicarbazide
A mixture of 15.9 g. (0.1 moles) of o-tolylhydrazine hydrochloride, 15.2 g. (0.2 moles) of ammonium thiocyanate, 300 ml. of ethanol and 30 ml. of water are heated at reflux temperature for 24 hours, the solvent is removed by distillation at atmospheric pressure, and sufficient water added to cause precipitation. The aqueous suspension is filtered and the solid residue recrystallized from aqueous ethanol affording 15 g. (85%) of 1-(o-tolyl)-3-thiosemicarbazide, m.p. 158°-160° C.

reactant | o-tolylhydrazine hydrochloride | 0.1 moles | Cl.C1(=C(C=CC=C1)NN)C
reactant | ammonium thiocyanate | 0.2 moles | [S-]C#N.[NH4+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(o-Tolyl)-3-Thiosemicarbazide | C1(=C(C=CC=C1)NNC(=S)N)C | C8H11N3S
